US08138340B2
3-Thiazol-4-yl-propionaldehyde
NaIO4 (2.40 g, 11.3 mmol) was added to a sol. of (rac.)-4-thiazol-4-ylbutane-1,2-diol (1.62 g, 9.37 mmol) in THF (20 mL) and water (10 mL). The mixture was stirred for 2 h, and EtOAc was added. The mixture was washed with brine, and with aq. sat. NaHCO3. The org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Drying the residue under high vacuum yielded the crude title compound (1.04 g, 79%), which was used further without purification. LC-MS: tR=0.32, ES+: 142.11.

reactant | (rac.)-4-thiazol-4-ylbutane-1,2-diol | 9.37 mmol, 1.62 g | S1C=NC(=C1)CCC(CO)O | C7H11NO2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-Thiazol-4-yl-propionaldehyde | 1.04 g, 79% | S1C=NC(=C1)CCC=O | C6H7NOS
